US07910585B2
A mixture 4-[1-(8-amino-2-methyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl)-piperidin-4-yl]-piperazine-1-carboxylic acid #tert!-butyl ester (9.20 g, 20.7 mmol), 2,4,5-trichloropyrimidine (5.96 mL, 51.8 mmol), K2CO3 (7.17 g, 51.8 mmol) in DMSO (200 mL) was stirred at 60° C. for 12 hours. After cooling to room temperature, 700 mL of water was added with stirring. The mixture was filtrated. The resulting brown solids were suspended in CH3CN (ca. 200 mL), stirred for a while and filtrated. The residue was further washed with CH3CN and dried under reduced pressure to give 8.75 g of 4-{1-[8-(2,5-dichloro-pyrimidin-4-ylamino)-2-methyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl]-piperidin-4-yl}-piperazine-1-carboxylic acid tert-butyl ester as pale beige solids in 72% yield.

reactant | 4-[1-(8-amino-2-methyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl)-piperidin-4-yl]-piperazine-1-carboxylic acid | NC=1C=CC(=C2CCN(C(C12)=O)C)N1CCC(CC1)N1CCN(CC1)C(=O)O | C20H29N5O3
reactant | 2,4,5-trichloropyrimidine | 51.8 mmol, 5.96 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | K2CO3 | 51.8 mmol, 7.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 700 mL | O | H2O
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 4-{1-[8-(2,5-dichloro-pyrimidin-4-ylamino)-2-methyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl]-piperidin-4-yl}-piperazine-1-carboxylic acid tert-butyl ester | 8.75 g, 72% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCN(CC1)C1=C2CCN(C(C2=C(C=C1)NC1=NC(=NC=C1Cl)Cl)=O)C | C28H37Cl2N7O3
